US08492582B2
To a methanol (3.0 mL) solution of the obtained methyl 2-(2-(benzyloxy)-5-(1-methylpiperidin-4-yl)benzamido)-4-phenylbenzoate (0.086 g), 10% palladium-carbon (43 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours and 10 minutes. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. Ethyl acetate was added to the obtained residue, and the solid substance was collected by filtration to obtain 0.058 g of methyl 2-(2-hydroxy-5-(1-methylpiperidin-4-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | methyl 2-(2-(benzyloxy)-5-(1-methylpiperidin-4-yl)benzamido)-4-phenylbenzoate | 0.086 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCN(CC1)C | C34H34N2O4
catalyst | palladium-carbon | 43 mg | [C].[Pd]
solvent | methanol | 3.0 mL | CO | CH4O
product | methyl 2-(2-hydroxy-5-(1-methylpiperidin-4-yl)benzamido)-4-phenylbenzoate | 0.058 g | OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCN(CC1)C | C27H28N2O4
